US08017601B2
N-(6-(isoquinolin-5-yl)naphthalen-2-yl)thiophene-2-carboxamide
To a microwave vial containing 6-(thiophene-2-carboxamido)naphthalen-2-yl trifluoromethanesulfonate (0.100 g, 0.2 mmol), in 1,4-Dioxane (3 mL), was added isoquinolin-5-ylboronic acid (0.129 g, 0.8 mmol), Fibrecat catalyst (0.005 g, 5% by wt.), and Potassium Carbonate (2 M, 0.50 mL, 1 mmol). The vial was capped and placed into CEM Microwave for 10 minutes at 80° C., while supplying 50 Watts of power through power-max. The mixture was diluted with DCM (2 mL) and water (2 mL). The aqueous layer was extracted with DCM (3×10 mL). The combined organics was dried over sodium sulfate, filtered, and concentrated in-vacuo. The crude was purified from reverse-phase HPLC. This gave a yellow colored amorphous solid, which was titled product (0.078 g, 0.2 mmol). MS (ESI pos. ion) m/z: 381 (M+H).

reactant | 6-(thiophene-2-carboxamido)naphthalen-2-yl trifluoromethanesulfonate | 0.2 mmol, 0.100 g | FC(S(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)NC(=O)C=1SC=CC1)(F)F | C16H10F3NO4S2
reactant | isoquinolin-5-ylboronic acid | 0.8 mmol, 0.129 g | C1=NC=CC2=C(C=CC=C12)B(O)O | C9H8BNO2
reactant | Potassium Carbonate | 1 mmol, 2 M, 0.50 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-Dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | water | 2 mL | O | H2O
product | N-(6-(isoquinolin-5-yl)naphthalen-2-yl)thiophene-2-carboxamide | 0.2 mmol, 0.078 g | C1=NC=CC2=C(C=CC=C12)C=1C=C2C=CC(=CC2=CC1)NC(=O)C=1SC=CC1 | C24H16N2OS
